US07777038B2
620 mg of 5-[1-(5-benzyl-6-oxo-5,6-dihydrophenanthridin-2-yl)methylidene]thiazolidine-2,4-dione was dissolved in 2.31 ml of THF. 2.31 ml of pyridine and 2.31 ml of a THF solution of 2 M lithium borohydride were added to the solution, followed by heating and refluxing for 4 hours. The reaction liquid was cooled, acidified with diluted hydrochloric acid, and extracted with dichloromethane. The organic layer was washed with water, then with saturated sodium chloride solution, and dried over sodium sulfate. After filtration, the solvent was distilled off under reduced pressure, the residue was crystallized using dichloromethane, and the solid thus obtained was separated by filtration. The solid separated by filtration was air-dried, giving 232 mg (36% yield) of 5-[1-(5-benzyl-6-oxo-5,6-dihydrophenanthridin-2-yl)methyl]thiazolidine-2,4-dione as white crystals.

reactant | 5-[1-(5-benzyl-6-oxo-5,6-dihydrophenanthridin-2-yl)methylidene]thiazolidine-2,4-dione | 620 mg | C(C1=CC=CC=C1)N1C=2C=CC(=CC2C2=CC=CC=C2C1=O)C=C1C(NC(S1)=O)=O | C24H16N2O3S
reactant | pyridine | 2.31 ml | N1=CC=CC=C1 | C5H5N
reactant | lithium borohydride | 2 M | [BH4-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 2.31 ml | C1CCOC1 | C4H8O
solvent | THF | 2.31 ml | C1CCOC1 | C4H8O
product | 5-[1-(5-benzyl-6-oxo-5,6-dihydrophenanthridin-2-yl)methyl]thiazolidine-2,4-dione | 232 mg, 36% yield | C(C1=CC=CC=C1)N1C=2C=CC(=CC2C2=CC=CC=C2C1=O)CC1C(NC(S1)=O)=O | C24H18N2O3S
